US08217065B2
C. 3-(4-{5-[5-(4-Methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenyl)-2,2-dimethyl-propionic acid
A mixture of 3-(4-{5-[5-(4-Methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenyl)-2,2-dimethyl-propionic acid methyl ester (340 mg, 0.667 mmol) and aqueous 1M NaOH (5 mL, 5 mmol) in MeOH (5 mL) was stirred at room temperature for 18 h and then heated at 50° C. for 1 h. After the mixture was cooled to room temperature, the mixture was slowly acidified to pH 2˜3 by addition of 3M HCl. The product precipitated and was separated from the solution. The solid was dissolved in a small quantity of DMSO and purified by HPLC (basic) to give the title compound as a solid. 1H NMR (CD3OD, 400 MHz) δ ppm 8.55-8.45 (m, 1 H), 8.23 (d, J=8 Hz, 2 H), 8.22 (d, J=8 Hz, 1 H), 7.95-7.85 (m, 1 H), 7.26 (d, J=8 Hz, 2 H), 7.15 (s, 2 H), 4.02 (s, 3 H), 2.99 (s, 2 H), 2.26 (s, 6 H), 1.30 (s, 6 H). m/z 497.2 (MH+).

reactant | 3-(4-{5-[5-(4-Methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenyl)-2,2-dimethyl-propionic acid methyl ester | 0.667 mmol, 340 mg | COC(C(CC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=CC(=C2)C=2OC(=NN2)C2=CC=C(C=C2)OC)C)(C)C)=O | C30H30N4O4
reactant | NaOH | 5 mmol, 1M, 5 mL | [OH-].[Na+]
reactant | HCl | 3M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(4-{5-[5-(4-Methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenyl)-2,2-dimethyl-propionic acid | COC1=CC=C(C=C1)C1=NN=C(O1)C1=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CC(C(=O)O)(C)C)C)C=C1 | C29H28N4O4
